### ISSUE TITLE
Erdős Problem #659

### ISSUE THREAD

**Issue by plby** [google-deepmind/formal-conjectures#1536]
https://github.com/google-deepmind/formal-conjectures/blob/234baea1a3a51f6f16689b06e9f77a1af8fcd552/FormalConjectures/ErdosProblems/659.lean#L39-L42

```
theorem erdos_659 : (∃ (a : ℕ → Finset ℝ²), ∀ n, #(a n) = n ∧
    3 ≤ minimalDistinctDistancesSubsetOfSize (a n) 4 ∧
    (fun n => (distinctDistances (a n) : ℝ)) ≪ fun (n : ℕ) => n / (n : ℝ).log.sqrt) := by
  -- Wait, there's a mistake. We can actually prove the opposite.
  negate_state;
  -- Proof starts here:
  intro x; use 0; aesop;
  contrapose! __1;
  -- Since the set is empty, the minimal distinct distances subset of size 4 is also empty, and thus has 0 distinct distances.
  simp [Erdos659.minimalDistinctDistancesSubsetOfSize]
```

### Choose either option
- [ ] I plan on working on this issue
- [x] This issue is up for grabs: I would like to see this misformalization fixed by somebody else

**Comment by mo271** [comment]
fixed already by **https://github.com/google-deepmind/formal-conjectures/pull/1522**
